US06440636B1
Production of 1-(1-Acryloyloxy-1-methylethyl)adamantane [1-1 (Acrylate)]
A total of 15 mmole of acrylic chloride was added dropwise to a mixture containing 10 mmole of the above-prepared α,α-dimethyl-1-adamantanemethanol, 20 mmole of triethylamine, and 40 ml of tetrahydrofuran, over about 30 minutes. After the completion of addition, the resulting mixture was stirred at room temperature for 6 hours. Water was added to the reaction mixture, and the resulting mixture was concentrated, and the concentrate was subjected to column chromatography on a silica gel to yield the title compound in a yield of 76%.

reactant | acrylic chloride | 15 mmole | C(C=C)(=O)Cl | C3H3ClO
reactant | α,α-dimethyl-1-adamantanemethanol | 10 mmole | CC(O)(C12CC3CC(CC(C1)C3)C2)C | C13H22O
reactant | triethylamine | 20 mmole | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 1-(1-Acryloyloxy-1-methylethyl)adamantane | yield of 76% | C(C=C)(=O)OC(C)(C)C12CC3CC(CC(C1)C3)C2 | C16H24O2
